US04997836
To a mixture of 4-(3,4,5-trimethoxybenzyl)-2-piperazine propanol (1.0 g) obtained in Reference Example 32, triethylamine (1.5 g) and methylene chloride (20 ml) is added dropwise at 0 ° C, while stirring, a solution of 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carbonyl chloride (713 mg) in methylene chloride (5 ml). The mixture is stirred for 2 hours and there is added an aqueous solution of sodium hydrogencarbonate, followed by shaking. The organic layer is separated, washed with water, dried and concentrated under reduced pressure. The concentrate is purified by means of a silica gel column chromatography (eluent:ethyl acetate-hexane methanol=5:4:1), followed by recrystallization from ethyl acetate to give 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -4-(3,4,5-trimethoxybenzyl)-2-piperazine propanol as colorless prisms (1.05 g), m.p. 144-145° C.

reactant | 4-(3,4,5-trimethoxybenzyl)-2-piperazine propanol | 1.0 g | COC=1C=C(CN2CC(NCC2)CCCO)C=C(C1OC)OC | C17H28N2O4
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carbonyl chloride | 713 mg | COC=1C(=CC2=C(C=C(CCC2)C(=O)Cl)C1)OC | C14H15ClO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -4-(3,4,5-trimethoxybenzyl)-2-piperazine propanol | 1.05 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2C(CN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC)CCCO)C1)OC | C31H42N2O7
